US05254543
6-Butyl-4-benzyloxycarbonyl-2-oxo-1,2-dihydropyridine
13.3 g (123 mmol) of benzyl alcohol and 4.7 g (31 mmol) of hydroxybenzotriazole are added to a solution of 6.0 g (31 mmol) of 6-butyl-2-oxo-1,2-dihydro-isonicotinic acid in 100 ml of DMF. The resulting clear solution is cooled to 0° C., followed by the addition of 7.0 g (34 mmol) of dicyclohexylcarbodiimide and 4.2 ml (31 mmol) of triethylamine. The mixture is allowed to thaw to 20° C., stirred for a further 2 hours and subjected to aqueous work-up. 6.8 g (77% of theory) of the title compound are obtained.

reactant | benzyl alcohol | 123 mmol, 13.3 g | C(C1=CC=CC=C1)O | C7H8O
reactant | hydroxybenzotriazole | 31 mmol, 4.7 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 6-butyl-2-oxo-1,2-dihydro-isonicotinic acid | 31 mmol, 6.0 g | C(CCC)C=1NC(C=C(C(=O)O)C1)=O | C10H13NO3
reactant | dicyclohexylcarbodiimide | 34 mmol, 7.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 31 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-Butyl-4-benzyloxycarbonyl-2-oxo-1,2-dihydropyridine | C(CCC)C1=CC(=CC(N1)=O)C(=O)OCC1=CC=CC=C1 | C17H19NO3
